US05136074
36 g (1.5 mol) magnesium was introduced into a 2 L four-neck flask equipped with a reflux condenser, stirring rod, thermometer, and addition funnel, and was dried under nitrogen. 800 mL dry tetrahydrofuran (THF) was then added. A Grignard reagent was prepared by slowly dripping in 117.8 g (1.5 mol) isopropyl chloride from the addition funnel. Then, 267.7 g (1.4 mol) phenylmethyldichlorosilane was dripped in from the addition funnel. After completion of this addition, the reaction was brought to completion by continuing to stir for 5 hours at the reflux temperature of THF. After cooling to room temperature, 500 mL hexane was added, the reaction mixture was filtered, and the solvent was distilled from the filtrate. Continuing with distillation in vacuo afforded 258 g (1.3 mol) of the target methylphenylisopropylchlorosilane (bp=85 degrees Centigrade/7 mmHg).

reactant | magnesium | 1.5 mol, 36 g | [Mg] | Mg
reactant | isopropyl chloride | 1.5 mol, 117.8 g | C(C)(C)Cl | C3H7Cl
reactant | phenylmethyldichlorosilane | 1.4 mol, 267.7 g | C1(=CC=CC=C1)C[SiH](Cl)Cl | C7H8Cl2Si
reactant | THF | O1CCCC1 | C4H8O
reactant | hexane | 500 mL | CCCCCC | C6H14
product | methylphenylisopropylchlorosilane | C[Si](Cl)(C(C)C)C1=CC=CC=C1 | C10H15ClSi
